US06909003B2
To a suspension of sodium hydride (100 mg, 4.17 mmol) in tetrahydrofurane (4 ml) under argon is added at −5° C. ethyl acetoacetate (546 mg, 4.19 mmol), butyllithium (n-heptane solution (soln.), 1.55 ml, 4.19 mmol), and a solution of 3-[2-cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-N-methoxy-N-methyl-acrylamide in tetrahydrofurane (9 ml). After 5 h stirring at room temperature, the reaction mixture is added to a suspension of sodium hydride (200 mg, 8.33 mmol), ethyl acetoacetate (1.09 g, 8.39 mmol), and butyllithium (n-heptane soln., 3.1 ml, 8.37 mmol) in tetrahydrofurane (8 ml) at −5 to 0° C. After 60 minutes at 0° C., acetic acid (100%, 2.25 g, 37.5 mmol), 25% aq. NaCl (5 ml), and water (3 ml) are added and the mixture is stirred vigorously for 10 min. The (upper) organic phase is successively washed with 25% aq. NaCl (5 ml) and water (5 ml), and evaporated to dryness under reduced pressure. The residue is dried under vacuum at 40° C. and purified by silica gel chromatography (hexane/ethyl acetate 3:1) to give (E)-7-[2-cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-3,5-dioxo-hept-6-enoic acid ethyl ester, semisolid honey. MS (ES): [M+H]+ 446.

reactant | sodium hydride | 4.17 mmol, 100 mg | [H-].[Na+]
reactant | ethyl acetoacetate | 4.19 mmol, 546 mg | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | butyllithium | 4.19 mmol, 1.55 ml | C(CCC)[Li]
reactant | 3-[2-cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-N-methoxy-N-methyl-acrylamide | C1(CC1)C1=NC2=CC=CC=C2C(=C1C=CC(=O)N(C)OC)C1=CC=C(C=C1)F | C23H21FN2O2
reactant | sodium hydride | 8.33 mmol, 200 mg | [H-].[Na+]
reactant | ethyl acetoacetate | 8.39 mmol, 1.09 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | butyllithium | 8.37 mmol, 3.1 ml | C(CCC)[Li]
reactant | acetic acid | 37.5 mmol, 2.25 g | C(C)(=O)O | C2H4O2
reactant | NaCl | 5 ml | [Na+].[Cl-]
solvent | tetrahydrofurane | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 9 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 8 ml | O1CCCC1 | C4H8O
solvent | water | 3 ml | O | H2O
product | (E)-7-[2-cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-3,5-dioxo-hept-6-enoic acid ethyl ester | C(C)OC(CC(CC(\C=C\C=1C(=NC2=CC=CC=C2C1C1=CC=C(C=C1)F)C1CC1)=O)=O)=O | C27H24FNO4
